US06635637B2
1. Diethyl 2-[2-(1,1,2,2-tetramethyl-1-silapropoxy)ethyl]propane-1,3-dioate
A solution of diethyl malonate (5.14 g, 32.1 mmol) in anhydrous ethyl alcohol (100 mL) was reacted with 96% sodium ethoxide (2.28 g, 32.2 mmol) at 76° C. for 1 h. After the solution cooled to room temperature, (2-bromoethoxy)-tert-butyldimethylsilane (7.68 g, 32.1 mmol) was added. The resulting solution was heated at 76° C. for 15.5 h and then concentrated. The residue was partitioned between dichloromethane and water. The organic layer was dried (Na2SO4) and concentrated to give the title compound as a brown oil (10.22 g, 100%). 1H NMR (CDCl3) δ 4.19-4.11 (m, 4H), 3.62 (t, 2H, J=6.0 Hz), 3.55 (t, 1H, J=7.3 Hz), 2.10-2.06 (m, 2H), 1.23 (t, 6H, J=7.1 Hz), 0.85 (s, 9H), 0.01 (s, 6H).

reactant | diethyl malonate | 32.1 mmol, 5.14 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 32.2 mmol, 2.28 g | [O-]CC.[Na+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 32.1 mmol, 7.68 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | Diethyl 2-[2-(1,1,2,2-tetramethyl-1-silapropoxy)ethyl]propane-1,3-dioate | 10.22 g, 100% | C[Si](C(C)(C)C)(OCCC(C(=O)OCC)C(=O)OCC)C | C15H30O5Si
